US07094801B2
4-[3E-(2,4-Dimethoxy-5-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid
2,4-Dimethoxy-5-thiophen-2-yl-benzaldehyde from Ex-6A (7.81 g), 4-acetylbenzoic acid (4.9 g), MeOH (60 mL) and DMF (150 mL) were sequentially charged into a clean reaction vessel fitted with a stir bar and nitrogen inlet adapter. After complete dissolution LiOMe (4.60 g) was added and the resulting solution was aged for 5 h. The reaction was diluted with H2O (200 mL) and transferred to a separatory funnel containing iPrOAc (100 mL). The layers were cut and the aqueous layer was acidified to a pH of 1 with 3 N HCl. The resulting precipitate was filtered and then dried on the filter funnel under a stream of N2. The crude product was then dissolved in THF (60 mL) and crystallized with the addition of heptane (60 mL). The product was filtered and then dried to a constant weight in the vacuum oven affording 8.9 g (75% yield) of the title compound as a yellow solid, m.p. 213–216° C. 1H-NMR (300 MHz, CDCl3): 8.20 (d, 2H, J=8.5 Hz), 8.09 (d, 1H, J=16.1 Hz), 8.06 (d, 2H, J=8.5 Hz), 7.85 (s, 1H), 7.52 (d, 1H, J=16.1 Hz), 7.40 (m, 1H), 7.30 (dd, 1H, J=5.2 and 1.7 Hz), 7.08 (dd, 1H, J=5.2 and 3.6 Hz), 6.53 (s, 1H), 3.98 (s, 3H), 3.97 (s, 3H); EIMS m/z=394 (M+). Anal. calc. for C22H18O5S: C, 66.99; H, 4.60; S, 8.13; found: C, 66.71; H, 4.59; S, 8.10.

reactant | 2,4-Dimethoxy-5-thiophen-2-yl-benzaldehyde | COC1=C(C=O)C=C(C(=C1)OC)C=1SC=CC1 | C13H12O3S
reactant | 4-acetylbenzoic acid | 4.9 g | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | LiOMe | 4.60 g | O([Li])C
reactant | iPrOAc | 100 mL | C(C)(C)OC(=O)C | C5H10O2
reactant | HCl | 3 N | Cl | ClH
solvent | H2O | 200 mL | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 60 mL | CO | CH4O
product | 4-[3E-(2,4-Dimethoxy-5-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid | 8.9 g, 75% yield | COC1=C(C=C(C(=C1)OC)C=1SC=CC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C22H18O5S
